data/mechanism_extracts/GreenChem/10.1039_d0gc03890c_si1.json
{"doi": "10.1039_d0gc03890c_si1", "journal": "GreenChem", "is_review": false, "rxn_class_summary": "Electrochemical anti-Markovnikov hydroboration of styrenes with HBpin using Pt electrodes, nBu4NBF4 electrolyte and DIEA in CH3CN/THF", "mechanism_family": ["radical_anodic", "direct_SET", "radical_polar_crossover"], "electrochemical_role": "Anodic oxidation of CH3CN and/or HBpin generates radical cations that, after deprotonation, yield .CH2CN and .Bpin radicals; the .Bpin radical adds to the styrene, and the resulting benzylic C-radical is reduced at the cathode to a carbanion that is protonated by DIEA-H+ (or THF-H+) to give the hydroboration product", "key_intermediates": [{"name": "acetonitrile radical cation [CH3CN]+.", "smiles": "[CH3:1][C:2]#[N:3].[+]", "role": "transient"}, {"name": "HBpin radical cation [HBpin]+.", "smiles": null, "role": "transient"}, {"name": "cyanomethyl radical .CH2CN", "smiles": "[CH2]C#N", "role": "transient"}, {"name": "boryl radical .Bpin", "smiles": null, "role": "reactive"}, {"name": "benzylic C-radical PhCH(.)CH2Bpin", "smiles": null, "role": "reactive"}, {"name": "benzylic carbanion PhCH(-)CH2Bpin", "smiles": null, "role": "reactive"}, {"name": "DIEA radical cation [iPr2NEt]+.", "smiles": null, "role": "transient"}, {"name": "2-phenethyl-Bpin (3a)", "smiles": "c1ccccc1CCB2OC(C)(C)C(C)(C)O2", "role": "reactive"}], "electron_flow": "At the anode, CH3CN (and/or HBpin, or DIEA when present) is oxidized by SET to a radical cation; deprotonation/H-atom loss gives .CH2CN and .Bpin radicals. .Bpin adds to the terminal carbon of styrene to give a benzylic radical, which is reduced at the cathode to a carbanion and protonated by [DIEA-H]+/[THF-H]+ to deliver the anti-Markovnikov hydroboration product, while H+ reduction at the cathode releases H2.", "rate_determining_step": null, "probe_reagents": [{"name": "THF-d8 (solvent label)", "smiles": "[2H]C1([2H])C([2H])([2H])C([2H])([2H])C1([2H])[2H]O", "purpose": "isotope_label", "observation": "No deuterium incorporation into 3a, indicating THF is not the proton source for the benzylic position under standard conditions"}, {"name": "CD3CN (solvent label)", "smiles": "[2H]C([2H])([2H])C#N", "purpose": "isotope_label", "observation": "Partial D incorporation at benzylic position, d1-3a:3a = 84:16 (47% yield), implicating CH3CN as the proton/H source for the benzylic C-H"}, {"name": "d8-styrene", "smiles": "[2H]C([2H])=C([2H])c1c([2H])c([2H])c([2H])c([2H])c1[2H]", "purpose": "isotope_label", "observation": "1H NMR shows a single new H at the benzylic methine (1.22 ppm), confirming the H delivered to benzylic carbon comes from an external proton source (CH3CN/DIEA), Bpin goes to terminal CH2"}, {"name": "galvinoxyl radical", "smiles": null, "purpose": "radical_trap", "observation": "Galvinoxyl-Bpin adduct (8) detected by MS, supporting formation of .Bpin radical"}, {"name": "DMPO", "smiles": "CC1(C)CCC=[N+]1[O-]", "purpose": "radical_trap", "observation": "EPR shows DMPO-H adduct under standard conditions; in absence of HBpin or styrene, DMPO-CH2CN (10) is also observed, confirming .CH2CN radical formation by anodic oxidation of CH3CN"}, {"name": "H2 detection by GC", "smiles": "[H][H]", "purpose": "other", "observation": "H2 evolution monitored by SHIMADZU GC-2014 in various omission experiments, consistent with cathodic proton reduction"}], "evidence_types_used": ["H/D_labeling", "intermediate_trap_other", "EPR", "product_isotope_distribution", "on/off_light_or_current"], "evidence_strength": "strong", "notes": "Two mechanistic cycles are proposed: (i) standard conditions with DIEA, where anodic SET on DIEA gives [DIEA]+. that mediates generation of .Bpin and .CH2CN; the benzylic radical from .Bpin addition to styrene is reduced cathodically and protonated by [DIEA-H]+; (ii) in the absence of DIEA, direct anodic oxidation of CH3CN and HBpin produces the same radicals, with THF/[THF2-H]+ acting as proton shuttle. A separate cycle for diboration (with 2-vinylnaphthalene, 7r) shows that a second .Bpin radical traps the benzylic C-radical before cathodic reduction; control experiments rule out B2pin2 involvement, so the diboronate ester is not formed from hydroboration product."}
